US03957999
Triethylamine (0.7 ml.) is added to a suspension of 2-amino-4-methoxybenzenethiol hydrochloride (0.96 g.) in toluene (20 ml.) under nitrogen. 4-(2-Pyrrolidin-1-ylethoxy)phenyl isothiocyanate (1.24 g.) is added and the mixture stirred and heated under reflux for 16 hours. Ethyl acetate and 10% sodium hydroxide are added and the organic layer separated, washed with water and dried. The organic layer is passed through a column of silica gel (2 × 20 cm.) and the filtrate rejected. The column is eluted with methanol, which, on concentration gives 5-methoxy-2-[4-(2-pyrrolidin-1-ylethoxy)anilino]benzothiazole, m.p. 167° - 168°C.

reactant | Triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | 2-amino-4-methoxybenzenethiol hydrochloride | 0.96 g | Cl.NC1=C(C=CC(=C1)OC)S
reactant | 4-(2-Pyrrolidin-1-ylethoxy)phenyl isothiocyanate | 1.24 g | N1(CCCC1)CCOC1=CC=C(C=C1)N=C=S | C13H16N2OS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-methoxy-2-[4-(2-pyrrolidin-1-ylethoxy)anilino]benzothiazole | COC=1C=CC2=C(N=C(S2)NC2=CC=C(C=C2)OCCN2CCCC2)C1 | C20H23N3O2S
